US08471040B2
To (R)-3-vinylpyrrolidine-1-carboxylic acid t-butyl ester (6.1 g, 30.8 mmol, 1.0 eq.) was added 3-pyridinecarbonitrile (320 mg, 3.1 mmol, 0.1 eq.) and methyltrioxorhenium (VII) (192 mg, 769 mmol, 0.025 eq.). The mixture was stirred until homogeneous. 30% Hydrogen peroxide (33:77, hydrogen peroxide:H2O, 4.1 mL, 1.3 eq.) was added, and the mixture was placed in a ice water bath and stirred for 2 hours. Additional methyltrioxorhenium (VII) (50 mg) was added. The organic layer was collected and washed with a saturated sodium metabisulfite solution under an ice bath. The material was then washed with saturated aqueous NaCl. The organic layer was collected, dried over Na2SO4, filtered, and concentrated. The peroxide layer was carefully quenched by adding ice followed by adding saturated sodium metabisulfite solution dropwise at 0° C. The crude product was purified by column chromatography (0-100% EtOAc in hexanes) to give (S)-3-oxiranylpyrrolidine-1-carboxylic acid t-butyl ester as a yellowish oil (4.2 g).

reactant | (R)-3-vinylpyrrolidine-1-carboxylic acid t-butyl ester | 30.8 mmol, 6.1 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C=C | C11H19NO2
reactant | 3-pyridinecarbonitrile | 3.1 mmol, 320 mg, 0.1 eq. | N1=CC(=CC=C1)C#N | C6H4N2
reactant | Hydrogen peroxide | 4.1 mL, 1.3 eq. | OO | H2O2
catalyst | methyltrioxorhenium (VII) | 769 mmol, 192 mg, 0.025 eq. | C[Re](=O)(=O)=O
catalyst | methyltrioxorhenium (VII) | 50 mg | C[Re](=O)(=O)=O
product | (S)-3-oxiranylpyrrolidine-1-carboxylic acid t-butyl ester | 4.2 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C1OC1 | C11H19NO3
